
*-----------------------------------------------------------------------------------------------------
*NON-OVERLAPPING CLOCK GENERATOR CELL
*-----------------------------------------------------------------------------------------------------
*inverter
.subckt NON_CLK_INV VDD VSS VIN VOUT number=1
x1  VOUT VIN VDD VDD sky130_fd_pr__pfet_01v8 w=0.84 l=0.15 m={number}
x2  VOUT VIN VSS VSS sky130_fd_pr__nfet_01v8 w=0.42 l=0.15 m={number}
.ends NON_CLK_INV

*buffer
.subckt NON_CLK_BUFFER VDD VSS VIN VOUT number=1
x1  VOUT0 VIN VDD VDD sky130_fd_pr__pfet_01v8 w=2.52 l=0.15 m={number}
x2  VOUT0 VIN VSS VSS sky130_fd_pr__nfet_01v8 w=1.26 l=0.15 m={number}
x3  VOUT VOUT0 VDD VDD sky130_fd_pr__pfet_01v8 w=1.68 l=0.15 m={number}
x4  VOUT VOUT0 VSS VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15 m={number}
.ends NON_CLK_BUFFER

*buffer_amp two stage chain to amplify the drive ability
.subckt NON_CLK_BUF_AMP VDD VSS VIN VOUT number=1
x1  VOUT0 VIN VDD VDD sky130_fd_pr__pfet_01v8 w=0.84 l=0.15 m={number*4}
x2  VOUT0 VIN VSS VSS sky130_fd_pr__nfet_01v8 w=0.42 l=0.15 m={number*4}
x3  VOUT VOUT0 VDD VDD sky130_fd_pr__pfet_01v8 w=0.84 l=0.15 m={number*8}
x4  VOUT VOUT0 VSS VSS sky130_fd_pr__nfet_01v8 w=0.42 l=0.15 m={number*8}
.ends NON_CLK_BUF_AMP

*and2
.subckt NON_CLK_AND VDD VSS A B VOUT number=1
x1  NODE0 A VDD VDD sky130_fd_pr__pfet_01v8 w=1.68 l=0.15 m={number}
x2  NODE0 B VDD VDD sky130_fd_pr__pfet_01v8 w=1.68 l=0.15 m={number}
x3  NODE0 A NODE1 VSS sky130_fd_pr__nfet_01v8 w=1.68 l=0.15 m={number}
x4  NODE1 B VSS VSS sky130_fd_pr__nfet_01v8 w=1.68 l=0.15 m={number}
x5 VDD VSS NODE0 VOUT NON_CLK_INV number={number}
.ends NON_CLK_AND

*or2
.subckt NON_CLK_OR VDD VSS A B VOUT number=1
x1  NODE0 B VDD VDD sky130_fd_pr__pfet_01v8 w=3.36 l=0.15 m={number} $d g s b
x2  NODE1 A NODE0 VDD sky130_fd_pr__pfet_01v8 w=3.36 l=0.15 m={number}
x3  NODE1 A VSS VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15 m={number}
x4  NODE1 B VSS VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15 m={number}
x5 VDD VSS NODE1 VOUT NON_CLK_INV number={number}
.ends NON_CLK_OR

*DCDE ----use C to adjust the delay (more power, more delay)
.subckt DCDE VDD VSS VIN A[3] A[2] A[1] A[0] VOUT number=1
.param w_inv_n = 0.48 w_inv_p = {w_inv_n * 2} $1.68, 0.84, 0.42
.param w_tg_n = 0.6 w_tg_p = {w_tg_n * 2}
.param w_c = 1 l_c = 1 
x1 NODE1 VIN VDD VDD sky130_fd_pr__pfet_01v8 w=w_inv_p l=0.15 m={number}
x2 NODE1 VIN VSS VSS sky130_fd_pr__nfet_01v8 w=w_inv_n l=0.15 m={number}
x3 COUT1 a[0] NODE1 VSS sky130_fd_pr__nfet_01v8 w=w_tg_n l=0.15 m={number}
x4 COUT1 a_[0] NODE1 VDD sky130_fd_pr__pfet_01v8 w=w_tg_p l=0.15 m={number}
x5 COUT1 VSS sky130_fd_pr__cap_mim_m3_1 w=w_c l=l_c m={number}
x6 COUT_1 a[1] NODE1 VSS sky130_fd_pr__nfet_01v8 w=w_tg_n l=0.15 m={number}
x7 COUT_1 a_[1] NODE1 VDD sky130_fd_pr__pfet_01v8 w=w_tg_p l=0.15 m={number}
x8 COUT_1 VSS sky130_fd_pr__cap_mim_m3_1 w=w_c*2 l=l_c m={number}

x9 NODE2 NODE1 VDD VDD sky130_fd_pr__pfet_01v8 w=w_inv_p l=0.15 m={number}
x10 NODE2 NODE1 VSS VSS sky130_fd_pr__nfet_01v8 w=w_inv_n l=0.15 m={number}
x11 COUT2 a[2] NODE2 VSS sky130_fd_pr__nfet_01v8 w=w_tg_n l=0.15 m={number*2}
x12 COUT2 a_[2] NODE2 VDD sky130_fd_pr__pfet_01v8 w=w_tg_p l=0.15 m={number*2}
x13 COUT2 VSS sky130_fd_pr__cap_mim_m3_1 w=w_c*5 l=l_c m={number}

x14 NODE3 NODE2 VDD VDD sky130_fd_pr__pfet_01v8 w=w_inv_p l=0.15 m={number}
x15 NODE3 NODE2 VSS VSS sky130_fd_pr__nfet_01v8 w=w_inv_n l=0.15 m={number}
x16 COUT3 a[3] NODE3 VSS sky130_fd_pr__nfet_01v8 w=w_tg_n l=0.15 m={number*5}
x17 COUT3 a_[3] NODE3 VDD sky130_fd_pr__pfet_01v8 w=w_tg_p l=0.15 m={number*5}
x18 COUT3 VSS sky130_fd_pr__cap_mim_m3_1 w=w_c*15 l=l_c m={number}

x26 VOUT NODE3 VDD VDD sky130_fd_pr__pfet_01v8 w=w_inv_p l=0.15 m={number}
x27 VOUT NODE3 VSS VSS sky130_fd_pr__nfet_01v8 w=w_inv_n l=0.15 m={number}

x34 VDD VSS A[3] a[3] NON_CLK_BUFFER number={number}
x35 VDD VSS A[3] a_[3] NON_CLK_INV number={number}
x36 VDD VSS A[2] a[2] NON_CLK_BUFFER number={number}
x37 VDD VSS A[2] a_[2] NON_CLK_INV number={number}
x38 VDD VSS A[1] a[1] NON_CLK_BUFFER number={number}
x39 VDD VSS A[1] a_[1] NON_CLK_INV number={number}
x40 VDD VSS A[0] a[0] NON_CLK_BUFFER number={number}
x41 VDD VSS A[0] a_[0] NON_CLK_INV number={number}
.ends DCDE

*NON_CLK_GEN should set the number as '1' (if want to duoble the circuit, just set number=2 or more)
.subckt NON_CLK_GEN VDD VSS CLK_IN A[3] A[2] A[1] A[0] CLK0 CLK0_B CLK1 CLK1_B number=1
x1 VDD VSS CLK_IN NODE0 NON_CLK_BUFFER number={number}
x2 VDD VSS NODE0 A[3] A[2] A[1] A[0] NODE1 DCDE number={number}

*CLK0
x3 VDD VSS NODE0 NODE1 NODE2 NON_CLK_AND number={number}
x4 VDD VSS NODE2 lCLK0 NON_CLK_BUFFER number={number}
x5 VDD VSS NODE2 lCLK0_B NON_CLK_INV number={number}

*buffer chain
x6 VDD VSS lCLK0 CLK0 NON_CLK_BUF_AMP number={number}
x7 VDD VSS lCLK0_B CLK0_B NON_CLK_BUF_AMP number={number}

*CLK1
x8 VDD VSS NODE0 NODE1 NODE3 NON_CLK_OR number={number}
x9 VDD VSS NODE3 lCLK1_B NON_CLK_BUFFER number={number}
x10 VDD VSS NODE3 lCLK1 NON_CLK_INV number={number}

*buffer chain
x11 VDD VSS lCLK1_B CLK1_B NON_CLK_BUF_AMP number={number} 
x12 VDD VSS lCLK1 CLK1 NON_CLK_BUF_AMP number={number}

.ends NON_CLK_GEN
